US07759370B2
To a solution of (R)-tert-butyl 4-(2-(4-hydroxy-3-(trifluoromethyl)phenyl)-2-oxoethylcarbamoyl)-2,2,4-trimethyloxazolidine-3-carboxylate (114 mg, 0.25 mmol, 1.0 equiv) and 6-phenylhexan-1-ol (45 mg, 0.25 mmol, 1.0 equiv) in DCM (1 mL) was added polymer bond PPh3 (125 mg, 0.75 mmol, 3.0 equiv). The reaction mixture was stirred at rt for 0.5 hour and cooled to 0° C. A solution of DIAD (0.053 mL, 0.25 mmol, 1.0 equiv) in DCM (0.5 mL) was added drop wise to the reaction mixture. The reaction mixture was stirred at rt for 2 hours, filtered and evaporated under reduced pressure to give a residue, which was purified by SiO2 column chromatograph (30-50% EtOAc in hexanes) to give (R)-tert-butyl 2,2,4-trimethyl-4-(2-oxo-2-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)ethylcarbamoyl)oxazolidine-3-carboxylate in 75% (155 mg) yield. HPLC retention time on a C18 column (30×4.6 mm, 3.5μ) was 3.31 min with gradient 50-95% acetonitrile-H2O (0.1% TFA) in 3.5 min as mobile phase. MS (ESI, M+H+)=621.6.

reactant | (R)-tert-butyl 4-(2-(4-hydroxy-3-(trifluoromethyl)phenyl)-2-oxoethylcarbamoyl)-2,2,4-trimethyloxazolidine-3-carboxylate | 0.25 mmol, 114 mg, 1.0 equiv | OC1=C(C=C(C=C1)C(CNC(=O)[C@@]1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C)=O)C(F)(F)F | C21H27F3N2O6
reactant | 6-phenylhexan-1-ol | 0.25 mmol, 45 mg, 1.0 equiv | C1(=CC=CC=C1)CCCCCCO | C12H18O
reactant | PPh3 | 0.75 mmol, 125 mg, 3.0 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.25 mmol, 0.053 mL, 1.0 equiv | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 2,2,4-trimethyl-4-(2-oxo-2-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)ethylcarbamoyl)oxazolidine-3-carboxylate | CC1(OC[C@@](N1C(=O)OC(C)(C)C)(C(NCC(C1=CC(=C(C=C1)OCCCCCCC1=CC=CC=C1)C(F)(F)F)=O)=O)C)C | C33H43F3N2O6
